US06225320B1
2-Benzyloxy-3-bromo-5-trifluoromethylpyridine
3-Bromo-5-trifluoromethyl-2(1H)-pyridone (6.09 g, 25.2 mmol) and silver carbonate (7.18 g, 26.0 mmol) were suspended in hexane (200 mL) and treated with benzyl bromide (6 mL, 50.3 mmol). The mixture was stirred for 18 hrs, then filtered. The filtrate was concentrated and the residue purified by silica chromatography to give the product as a white solid (7.65 g, 23 mmol, 91% yield).

reactant | 3-Bromo-5-trifluoromethyl-2(1H)-pyridone | 25.2 mmol, 6.09 g | BrC=1C(NC=C(C1)C(F)(F)F)=O | C6H3BrF3NO
reactant | benzyl bromide | 50.3 mmol, 6 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | hexane | 200 mL | CCCCCC | C6H14
catalyst | silver carbonate | 26.0 mmol, 7.18 g | C([O-])([O-])=O.[Ag+2]
product | 2-Benzyloxy-3-bromo-5-trifluoromethylpyridine | 23 mmol, 7.65 g, 91% yield | C(C1=CC=CC=C1)OC1=NC=C(C=C1Br)C(F)(F)F | C13H9BrF3NO
